US07790709B2
To a solution of (methyl-(1-methyl-1H-indol-7-ylmethyl)amine (103 mg, 0.6 mmol), (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid dihydrochloride (160 mg, 0.5 mmol), HOBt (81 mg, 0.5 mmol) and diisopropylethylamine (0.41 mL, 2 mmol) in DMF (12 mL) was added EDC hydrochloride (114 mg, 0.6 mmol). The mixture was stirred overnight at room temperature. Water (75 mL) was added and the solution stirred for 1 hr. The precipitate was collected by filtration and triturated with hexanes to afford (E)-N-methyl-N-(1-methylindol-7-ylmethyl)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide (100 mg, 50%) as a white solid and as a mixture of amide rotomers. 1H NMR (300 MHz, DMSO-d6) δ 10.33 (m, 1H), 8.54-8.47 (m, 1H), 8.16-7.97 (m, 1H), 7.62-7.19 (m, 4H), 6.92-6.97 (m, 1H), 6.78-6.58 (m, 1H), 6.39 (d, J=3.1 Hz, 1H) 5.48-5.19 (2×s, 2H), 3.99-4.11 (2×s, 3H), 3.79-3.70 (2×s, 2H), 3.42-3.36 (m, 2H), 3.30-3.13 (2×s, 3H), 2.36-2.30 (2×s, 3H); ESI MS m/z 404 [C23H25N5O2+H]+.

reactant | methyl-(1-methyl-1H-indol-7-ylmethyl)amine | 0.6 mmol, 103 mg | CNCC=1C=CC=C2C=CN(C12)C | C11H14N2
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid dihydrochloride | 0.5 mmol, 160 mg | Cl.Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | HOBt | 0.5 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 2 mmol, 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC hydrochloride | 0.6 mmol, 114 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Water | 75 mL | O | H2O
product | (E)-N-methyl-N-(1-methylindol-7-ylmethyl)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide | 100 mg, 50% | CN(C(\C=C\C1=CC2=C(NC(CN(C2)C)=O)N=C1)=O)CC=1C=CC=C2C=CN(C12)C | C23H25N5O2
